US05698554
45.9 g of oxalyl chloride and 5 drops of dimethylformamide were added to a dichloroethane solution (500 ml) containing 45.5 g of methyl hydrogen succinate, and the mixture was stirred at room temperature for 3 hours. Under ice cooling, a dichloroethane solution (60 ml) containing 31.3 g of [4-(acetylamino)butyl]benzene, and 91.9 g of anhydrous aluminum chloride were added thereto, and the mixture was stirred for 1 hour. The reaction mixture was poured into ice water, and the organic layer was collected by separation. After the organic layer was washed with water and dried, the solvent was removed. The resulting crude crystal was recrystallized from ethyl acetate to obtain 42.3 g of 4-[4-(acetylamino)butyl]-l-(3-methoxycarbonylpropionyl)benzene.

reactant | oxalyl chloride | 45.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl hydrogen succinate | 45.5 g | C(CCC(=O)O)(=O)OC | C5H8O4
reactant | [4-(acetylamino)butyl]benzene | 31.3 g | C(C)(=O)NCCCCC1=CC=CC=C1 | C12H17NO
reactant | aluminum chloride | 91.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | dichloroethane | 60 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 500 ml | ClC(C)Cl | C2H4Cl2
product | 4-[4-(acetylamino)butyl]-l-(3-methoxycarbonylpropionyl)benzene | 42.3 g | C(C)(=O)NCCCCC1=CC=C(C=C1)C(CCC(=O)OC)=O | C17H23NO4
